US08030334B2
A microwave flask is charged with 6-chloro-1-Boc-indole-2-boronic acid (1.91 g, 6.46 mmol), 3-hydroxy-5-bromopyridine (0.750 g, 4.31 mmol), potassium phosphate (1.83 g, 8.62 mmol) and DMF (15 mL). The flask is evacuated and filled with nitrogen thrice and Pd(PPh3)4 (0.250 g, 0.215 mmol) is added. The flask is evacuated and filled with nitrogen thrice again, and heated to 110° C. under microwave irradiation for 45 min. Pd(PPh3)4 (0.100 g, 0.086 mmol) is added and the vial is heated again to 110° C. under microwave irradiation for 45 min. The mixture is then diluted with ethyl acetate and washed with water thrice. The organic layer is dried over sodium sulfate and concentrated in vacuo. The residue is purified by silica gel flash chromatography (dichloromethane-methanol, 19:1) to afford 6-chloro-2-(5-hydroxy-pyridin-3-yl)-indole-1-carboxylic acid tert-butyl ester as a solid. MS (ESI) m/z 345.06 (M+H)+

reactant | 6-chloro-1-Boc-indole-2-boronic acid | 6.46 mmol, 1.91 g | ClC1=CC=C2C=C(N(C2=C1)C(=O)OC(C)(C)C)B(O)O | C13H15BClNO4
reactant | 3-hydroxy-5-bromopyridine | 4.31 mmol, 0.750 g | OC=1C=NC=C(C1)Br | C5H4BrNO
reactant | potassium phosphate | 8.62 mmol, 1.83 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | Pd(PPh3)4 | 0.215 mmol, 0.250 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | Pd(PPh3)4 | 0.086 mmol, 0.100 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 6-chloro-2-(5-hydroxy-pyridin-3-yl)-indole-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(=CC2=CC=C(C=C12)Cl)C=1C=NC=C(C1)O | C18H17ClN2O3
